US07196114B2
a) 5-(4-Fluorophenyl)-2-(1H-tetrazol-5-yl)thiophen-3-ylamine
The mixture consisting of 0.65 g of 3-amino-2-cyano-5-(4-fluorophenyl)thiophene, 7.5 ml of xylene and 0.93 g of trimethyltin azide is stirred at 130–140° C. for 3 hours. Afterwards, the mixture is concentrated at 40° C. under reduced pressure and the residue is stirred with water with the addition of 1% trifluoroacetic acid. The precipitate is filtered off with suction and dried at 40° C. under reduced pressure.

reactant | 3-amino-2-cyano-5-(4-fluorophenyl)thiophene | 0.65 g | NC1=C(SC(=C1)C1=CC=C(C=C1)F)C#N | C11H7FN2S
reactant | trimethyltin azide | 0.93 g | C[Sn](C)(C)N=[N+]=[N-]
solvent | xylene | 7.5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5-(4-Fluorophenyl)-2-(1H-tetrazol-5-yl)thiophen-3-ylamine | FC1=CC=C(C=C1)C1=CC(=C(S1)C1=NN=NN1)N | C11H8FN5S
